US08198279B2
3-tert-butyl-N-(3-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)benzamide (AA-005)
Method G1 was used with 8-(3-aminophenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one and 3-tertbutylbenzoyl chloride to afford the title compound as a slightly yellow solid (77 mg, 97%).

reactant | 8-(3-aminophenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one | NC=1C=C(OC2=CC=NC=3NC(C(=NC32)C)=O)C=CC1 | C14H12N4O2
reactant | 3-tertbutylbenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1 | C11H13ClO
product | 3-tert-butyl-N-(3-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)benzamide | C(C)(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC2=CC=NC=3NC(C(=NC32)C)=O)C=CC1 | C25H24N4O3
